US05965559
Using an analogous procedure to that described in Example 2, methyl 2-(1-benzylpiperazin-3-yl)acetate (J. Chem. Soc. Perkin I, 1992, 1035) was reacted with 2-naphthylsulphonyl chloride to give methyl 2-[4-benzyl-1-(2-naphthylsulphonyl)piperazin-2-yl]acetate in 90% yield.

reactant | methyl 2-(1-benzylpiperazin-3-yl)acetate | C(C1=CC=CC=C1)N1CC(NCC1)CC(=O)OC | C14H20N2O2
reactant | 2-naphthylsulphonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | methyl 2-[4-benzyl-1-(2-naphthylsulphonyl)piperazin-2-yl]acetate | 90% yield | C(C1=CC=CC=C1)N1CC(N(CC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CC(=O)OC | C24H26N2O4S
